US09278983B2
To a mixture of N-methyl-(5-trifluoromethyl-pyridin-2-yl)-amine (3.48 g) and DMF (20 ml), N-bromosuccinimide (4.27 g) was added, and stirred at room temperature for 1 hour. Into the reaction mixture, saturated aqueous ammonium chloride solution was poured, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 4.8 g of N-methyl-(3-bromo-5-trifluoromethyl-pyridin-2-yl)-amine.

reactant | N-methyl-(5-trifluoromethyl-pyridin-2-yl)-amine | 3.48 g | CNC1=NC=C(C=C1)C(F)(F)F | C7H7F3N2
reactant | N-bromosuccinimide | 4.27 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-methyl-(3-bromo-5-trifluoromethyl-pyridin-2-yl)-amine | 4.8 g | CNC1=NC=C(C=C1Br)C(F)(F)F | C7H6BrF3N2
